US05905071
12d N-[2(N-Carbobenzoxy-L-valyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-tetradecyl-dodecanamide.
from N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-tetradecyl-dodecanamide and N-carbobenzoxy-L-valine. Yield 76%. [α]D =+17.8° (c=1.09, dichloromethane). m.p. 85-86°.

reactant | N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-tetradecyl-dodecanamide | NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCCCC)N | C34H67N3O6
reactant | N-carbobenzoxy-L-valine | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[2(N-Carbobenzoxy-L-valyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-tetradecyl-dodecanamide | Yield 76% | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCCCC)N | C47H82N4O9
